US07211577B2
1) Preparation of 4-carboxy-2-(2,6-dichlorobenzyl)-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 2,6-dichlorobenzyl bromide were reacted to yield a crude product. Without purification, the crude product was reacted further in accordance with the procedure of Example 1(7) to yield the title compound as a pale yellow solid (90.3%).

reactant | 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OC)C | C13H11FN2O3
reactant | 2,6-dichlorobenzyl bromide | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
product | 4-carboxy-2-(2,6-dichlorobenzyl)-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | 90.3% | C(=O)(O)C=1C(N(N=C(C1)C1=CC(=C(C=C1)F)C)CC1=C(C=CC=C1Cl)Cl)=O | C19H13Cl2FN2O3
